US08497368B2
Sodium iodide (4.32 g, 28.8 mmol), copper (I) iodide (137 mg, 0.72 mmol), 6-bromo-quinoline (3 g, 14.4 mmol), N,N′-dimethyl-cyclohexane (0.227 ml, 1.44 mmol) and dioxane were charged in microwave tube (25 mL). The tube was flushed with nitrogen for 10 min and sealed with a Teflon septum. The reaction mixture was stirred at 110° C. for 15 hours. Then the suspension was allowed to cooled to rt, poured into ice-water and extracted with DCM. The crude was purified by silica gel column to give 6-iodo-quinoline as a little green solid (3.5 g, 92%).

reactant | Sodium iodide | 28.8 mmol, 4.32 g | [I-].[Na+]
reactant | 6-bromo-quinoline | 14.4 mmol, 3 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
catalyst | copper (I) iodide | 0.72 mmol, 137 mg | [Cu]I
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-iodo-quinoline | 3.5 g, 92% | IC=1C=C2C=CC=NC2=CC1 | C9H6IN
